US07951810B2
Step c: ((3aR,4R,6R,6aR)-6-{6[(1S)-2,3-dihydro-1H-inden-1-yl(methyl)amino]-9H-purin-9-yl}-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methanol
A suspension of (1S)-N-methylindan-1-amine (67.8 mg, 0.461 mmol), [(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl tritylsulfamate (200 mg, 0.309 mmol) and DIPEA (0.160 mL, 0.919 mmol) in ethanol (3.0 mL) was heated at 150° C. for 600 s using microwave irradiation. The residue was purified via flash chromatography (0 to 100% EtOAc/DCM) to afford the title compound as a brown oil (74.3 mg, 55%).

reactant | (1S)-N-methylindan-1-amine | 0.461 mmol, 67.8 mg | CN[C@H]1CCC2=CC=CC=C12 | C10H13N
reactant | [(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl tritylsulfamate | 0.309 mmol, 200 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NS(OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)Cl)(=O)=O | C32H30ClN5O6S
reactant | DIPEA | 0.919 mmol, 0.160 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | ((3aR,4R,6R,6aR)-6-{6[(1S)-2,3-dihydro-1H-inden-1-yl(methyl)amino]-9H-purin-9-yl}-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methanol | 74.3 mg, 55% | [C@@H]1(CCC2=CC=CC=C12)N(C1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO)C | C23H27N5O4
